* C:\Users\maurovlachus\OneDrive - Technical University of Cluj-Napoca\utcn\master\caa\proiect\p2_filter\Circuit_filtru\test_biquad_ideal.asc
C1 N003 N001 {C1_1}
V1 in 0 AC 1
R1 N001 in {Rg_1}
XX1 N001 0 N003 ao_model
R2 N003 N001 {R1_1}
C2 N006 N005 {C2_1}
XX2 N005 0 N006 ao_model
R3 N005 N003 {R2_1}
XX3 N008 0 N002 ao_model
R4 N008 N006 {R3_1}
R5 N002 N008 {R3_1}
R6 N002 N001 {R4_1}
C3 N007 N004 {C1_2}
R7 N004 N002 {Rg_2}
XX4 N004 0 N007 ao_model
R8 N007 N004 {R1_2}
C4 N010 N009 {C2_2}
XX5 N009 0 N010 ao_model
R9 N009 N007 {R2_2}
XX6 N011 0 out ao_model
R10 N011 N010 {R3_2}
R11 out N011 {R3_2}
R12 out N004 {R4_2}
E1 N012 0 N013 0 laplace = 1/(s**2*(493.367u) + s*(23.898m) +1)
E2 out2 0 N012 0 laplace = 1/(s**2*(117.707u) + s*(2.361m) +1)
V2 N013 0 AC 1

* block symbol definitions
.subckt ao_model IM IP out
E1 N001 0 IM IP -1
R1 N002 N001 1
Rid IM IP {Rid}
C1 N002 0 {1/(2*3.1415*fp)}
E2 N003 0 N002 0 {GBW/fp}
Rout out N003 {Rout}
.PARAM Rid=1e+20 Rout=6500 GBW=33e+6 fp=6e+3
.ends ao_model

.PARAM Rg_1= R4_1 R1_1= 2.064G R4_1=2.221G R2_1=R4_1 R3_1= 1G C1_1= 10p C2_1=10p
.PARAM Rg_2= R4_2 R1_2= 4.984G R4_2=1.085G R2_2=R4_2 R3_2=1G C1_2= 10p C2_2=10p
.ac dec 100 1m 100
.backanno
.end
