* C:\Users\maurovlachus\OneDrive - Technical University of Cluj-Napoca\utcn\master\caa\proiect\p2_filter\Circuit_filtru\test_biquad_laplace.asc
E1 N001 0 N002 0 laplace = 1/(s**2*(493.367u) + s*(23.898m) +1)
E2 out2 0 N001 0 laplace = 1/(s**2*(117.707u) + s*(2.361m) +1)
V5 N002 0 AC 1
.lib proiect_CAA.txt
.ac dec 100 1m 100
.backanno
.end
