* C:\Users\maurovlachus\OneDrive - Technical University of Cluj-Napoca\utcn\master\caa\proiect\p2_filter\Circuit_filtru\test_biquad_real.asc
V4 in vmc AC 1
R1 N001 in {Rg_1}
R3 N005 N003 {R2_1}
R4 N008 N006 {R3_1}
V5 $G_VDD 0 1.65
V6 $G_VSS 0 -1.65
V7 vmc 0 0
E1 N018 0 N019 0 laplace = 1/(s**2*(493.367u) + s*(23.898m) +1)
E2 out2 0 N018 0 laplace = 1/(s**2*(117.707u) + s*(2.361m) +1)
V1 N019 0 AC 1
XX2 N001 vmc N003 N012 ao_cp_n
I5 N012 0 25µ
XX3 N005 vmc N006 N013 ao_cp_n
I6 N013 0 25µ
XX4 N008 vmc N002 N014 ao_cp_n
I7 N014 0 25µ
R7 N004 N002 {Rg_2}
R9 N009 N007 {R2_2}
R10 N011 N010 {R3_2}
XX1 N004 vmc N007 N015 ao_cp_n
I1 N015 0 25µ
XX5 N009 vmc N010 N016 ao_cp_n
I2 N016 0 25µ
XX6 N011 vmc out N017 ao_cp_n
I3 N017 0 25µ
C1 N003 N001 {C1_1}
R2 N003 N001 {R1_1}
C2 N006 N005 {C2_1}
R5 N002 N008 {R3_1}
R6 N002 N001 {R4_1}
C3 N007 N004 {C1_2}
R8 N007 N004 {R1_2}
C4 N010 N009 {C2_2}
R11 out N011 {R3_2}
R12 out N004 {R4_2}

* block symbol definitions
.subckt ao_cp_n IM IP Out Iref
M1 N002 IP N006 $G_vss N_130n l={L} w=134u ad={Ldif*134u} as={Ldif*134u} pd={(Ldif+134u)*2} ps={(Ldif+134u)*2} m=1
M8 N005 Iref N002 $G_vdd P_130n l={L} w=41u ad={Ldif*41u} as={Ldif*41u} pd={(Ldif+41u)*2} ps={(Ldif+41u)*2} m=1
M2 N003 IM N007 $G_vss N_130n l={L} w=134u ad={Ldif*134u} as={Ldif*134u} pd={(Ldif+134u)*2} ps={(Ldif+134u)*2} m=1
M3 N007 NC_01 NC_02 NC_03 N_130n l=3u w=19u ad={Ldif*19u} as={Ldif*19u} pd={(Ldif+19u)*2} ps={(Ldif+19u)*2} m=5
M4 N009 N009 $G_vss $G_vss N_130n l={L} w=14u ad={Ldif*14u} as={Ldif*14u} pd={(Ldif+14u)*2} ps={(Ldif+14u)*2} m=1
M5 N010 N009 $G_vss $G_vss N_130n l={L} w=14u ad={Ldif*14u} as={Ldif*14u} pd={(Ldif+14u)*2} ps={(Ldif+14u)*2} m=1
M6 N005 N005 N009 $G_vss N_130n l={L} w=14u ad={Ldif*14u} as={Ldif*14u} pd={(Ldif+14u)*2} ps={(Ldif+14u)*2} m=1
M7 Out N005 N010 $G_vss N_130n l={L} w=14u ad={Ldif*14u} as={Ldif*14u} pd={(Ldif+14u)*2} ps={(Ldif+14u)*2} m=1
M9 Out Iref N003 $G_vdd P_130n l={L} w=41u ad={Ldif*41u} as={Ldif*41u} pd={(Ldif+41u)*2} ps={(Ldif+41u)*2} m=1
M10 N002 N001 $G_vdd $G_vdd P_130n l={L} w=68u ad={Ldif*68u} as={Ldif*68u} pd={(Ldif+68u)*2} ps={(Ldif+68u)*2} m=1
M11 N003 N001 $G_vdd $G_vdd P_130n l={L} w=68u ad={Ldif*68u} as={Ldif*68u} pd={(Ldif+68u)*2} ps={(Ldif+68u)*2} m=1
M12 N004 N001 $G_vdd $G_vdd P_130n l=1u w=13u ad={Ldif*13u} as={Ldif*13u} pd={(Ldif+13u)*2} ps={(Ldif+13u)*2} m=1
M13 N001 N001 $G_vdd $G_vdd P_130n l=1u w=13u ad={Ldif*13u} as={Ldif*13u} pd={(Ldif+13u)*2} ps={(Ldif+13u)*2} m=1
M14 N008 Iref N004 $G_vdd P_130n l=1u w=10u ad={Ldif*10u} as={Ldif*10u} pd={(Ldif+10u)*2} ps={(Ldif+10u)*2} m=1
M15 Iref Iref N001 $G_vdd P_130n l=1u w=10u ad={Ldif*10u} as={Ldif*10u} pd={(Ldif+10u)*2} ps={(Ldif+10u)*2} m=1
M16 N008 N008 $G_vss $G_vss N_130n l=3u w=19u ad={Ldif*19u} as={Ldif*19u} pd={(Ldif+19u)*2} ps={(Ldif+19u)*2} m=1
M17 N006 N008 NC_04 N011 N_130n l=3u w=19u ad={Ldif*19u} as={Ldif*19u} pd={(Ldif+19u)*2} ps={(Ldif+19u)*2} m=5
.param L=1u W=1u Ldif=0.2u
.ends ao_cp_n

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\maurovlachus\AppData\Local\LTspice\lib\cmp\standard.mos
.lib proiect_CAA.txt
.ac dec 100 1m 100
.PARAM Rg_1= R4_1 R1_1= 2.064G R4_1=2.221G R2_1=R4_1 R3_1= 1G C1_1= 10p C2_1=10p
.PARAM Rg_2= R4_2 R1_2= 4.984G R4_2=1.085G R2_2=R4_2 R3_2=1G C1_2= 10p C2_2=10p
* .op
.backanno
.end
